US05380852
5.0 g (0.021 mol) of 5-chloroquinolin-8-oxyacetic acid are heated at 70° C. in 70 ml of thionyl chloride for one hour. The excess thionyl chloride is then distilled off in vacuo and the residue is suspended in 150 ml of carbon tetrachloride. 2.10 g (0.021 mol) of 2-propargyloxyethanol are added dropwise to this suspension, 2.30 g (0.023 mol) of triethylamine are then added dropwise and the mixture is heated under reflux for 12 hours. The suspension is then washed with in each case 70 ml of 2N HCl and 5 percent strength sodium hydroxide solution, the organic phase is dried over magnesium sulfate and the solvent is stripped off in vacuo. The residue is recrystallized from n-heptane. 1.1 g (16.3% of theory) of 2-(propargyloxy)ethyl 5-chloroquinolin-8-oxyacetate of melting point 53° C. are thus obtained.

reactant | 5-chloroquinolin-8-oxyacetic acid | 0.021 mol, 5.0 g | ClC1=C2C=CC=NC2=C(C=C1)OCC(=O)O | C11H8ClNO3
reactant | 2-propargyloxyethanol | 0.021 mol, 2.10 g | C(C#C)OCCO | C5H8O2
reactant | triethylamine | 0.023 mol, 2.30 g | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(propargyloxy)ethyl 5-chloroquinolin-8-oxyacetate | 1.1 g, 16.3% | ClC1=C2C=CC=NC2=C(C=C1)OCC(=O)OCCOCC#C | C16H14ClNO4
